US06764829B2
Stage 1.—Preparation of 3-trifluoroacetamidophenol
A solution of 3-aminophenol (500 mg, 4.58 mmol), trifluoroacetic anhydride (9.62 g, 45.8 mmol. 6.4 ml) and trifluoroacetic acid (10 ml) was stirred at 0° C. for 2 hrs. The excess solvents were evaporated in vacuo to a solid residue which was dissolved in ethyl acetate and washed with saturated aqueous sodium bicarbonate solution. The organic layer was dried over anhydrous magnesium sulfate, evaporated in vacuo and the residue recrystallized from toluene to afford the title compound as colourless needles, 758 mg, 67%, m.p. 133°-135° C.

reactant | 3-aminophenol | 4.58 mmol, 500 mg | NC=1C=C(C=CC1)O | C6H7NO
reactant | trifluoroacetic anhydride | 45.8 mmol, 6.4 ml, 9.62 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 3-trifluoroacetamidophenol | FC(C(=O)NC=1C=C(C=CC1)O)(F)F | C8H6F3NO2
